US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 35.1 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) and 1-bromo-butan-2-one to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H41N5O4
reactant | 1-bromo-butan-2-one | BrCC(CC)=O | C4H7BrO
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CC(CC)=O)C=CC=C3)C=C(C1OC)OC | C38H47N5O5
